US07994190B2
A mixture of 3-(6-chloropyridin-3-yl)-2,2-dimethyl-3-phenylpropanoic acid (28 mg, 0.10 mmol), potassium carbonate (8 mg), and hydrazine (0.5 mL) was stirred at 110° C. for 11 hr under argon and then concentrated. The residue was mixed with formic acid (1 mL). The mixture was stirred at 100° C. for 2 hr and 120° C. for 1 hr. Concentration and purification using reverse phase HPLC (YMC S5 20×100 mm, 10 min. run, solvent A: 10% MeOH: 90% H2O: 0.1% TFA, solvent B: 90% MeOH, 10% H2O, 0.1% TFA) gave 3-([1,2,4]triazolo[4,3-a]pyridin-6-yl)-2,2-dimethyl-3-phenylpropanoic acid (33 mg, 0.081 mmol, 81% yield) as a TFA salt. MS found: (M+H)+=296.25.

reactant | 3-(6-chloropyridin-3-yl)-2,2-dimethyl-3-phenylpropanoic acid | 0.10 mmol, 28 mg | ClC1=CC=C(C=N1)C(C(C(=O)O)(C)C)C1=CC=CC=C1 | C16H16ClNO2
reactant | potassium carbonate | 8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine | 0.5 mL | NN | H4N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-([1,2,4]triazolo[4,3-a]pyridin-6-yl)-2,2-dimethyl-3-phenylpropanoic acid | 0.081 mmol, 33 mg, 81% yield | N=1N=CN2C1C=CC(=C2)C(C(C(=O)O)(C)C)C2=CC=CC=C2 | C17H17N3O2
